US05948785
Ethyl 4(S)-amino-2,2-difluoro-3(R)-hydroxy-5-phenylpentanoate hydrochloride was synthesized in the same manner as in Example 83-(7). That is, ethyl 4(S)-[(tert-butoxycarbonyl)amino]-2,2-difluoro-3(R)-hydroxy-5-phenylpentanoate (an intermediate in Reference Example 6, 908 mg, 2.43 mmol) was treated with a solution of hydrogen chloride in 1,4-dioxane (4N, 6 mL) to give 750 mg (100%) of the target compound as a colorless solid.

reactant | ethyl 4(S)-[(tert-butoxycarbonyl)amino]-2,2-difluoro-3(R)-hydroxy-5-phenylpentanoate | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(C(=O)OCC)(F)F)O)CC1=CC=CC=C1 | C18H25F2NO5
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 4N, 6 mL | O1CCOCC1 | C4H8O2
product | Ethyl 4(S)-amino-2,2-difluoro-3(R)-hydroxy-5-phenylpentanoate hydrochloride | Cl.N[C@H]([C@H](C(C(=O)OCC)(F)F)O)CC1=CC=CC=C1 | InChI=1S/C13H17F2NO3.ClH/c1-2-19-12(18)13(14,15)11(17)10(16)8-9-6-4-3-5-7-9;/h3-7,10-11,17H,2,8,16H2,1H3;1H/t10-,11+;/m0./s1
